US05286842
Preparation of 3-(α-bromoacetoxy)butyric acid
5 g (0.048 mol) of 3-hydroxybutyric acid and 0.062 mol of bromoacetyl chloride were dissolved in 100 ml of diethyl ether. This solution was stirred in an ice bath, and while maintaining the solution at a level of not higher than 5° C., 20 ml of diethyl ether containing 5.35 g (0.053 mol) of triethylamine was dropwise added over a period of 30 minutes. After the dropwise addition, the mixture was stirred at room temperature for 10 hours. Then, triethylamine hydrochloride was filtered off from the reaction solution, and the filtrate was washed three times with distilled water. The ether solution thereby obtained was dried over anhydrous sodium sulfate, and then diethyl ether was distilled off. As a result, a slightly yellow desired compound was obtained in a yield of 70%.

reactant | 3-hydroxybutyric acid | 0.048 mol, 5 g | OC(CC(=O)O)C | C4H8O3
reactant | bromoacetyl chloride | 0.062 mol | BrCC(=O)Cl | C2H2BrClO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 0.053 mol, 20 ml, 5.35 g | C(C)OCC | C4H10O
product | 3-(α-bromoacetoxy)butyric acid | yield of 70% | BrCC(=O)OC(CC(=O)O)C | C6H9BrO4
